US08030497B2
d) (4-Bromo-2-methoxy-6-nitro-phenyl)-(2-methoxy-ethyl)-amine
To a solution of ca. 20 g (contains 15.65 g, 58.9 mmol) (2-methoxy-ethyl)-(2-methoxy-6-nitro-phenyl)-amine in 150 ml glacial acetic acid, 3.0 ml (58.9 mmol) bromine is slowly added at room temperature. The reaction mixture is stirred at room temperature for 3 h. 600 ml EtOAc are added and this solution is washed with 4n NaOH (2×), water and brine, dried over MgSO4, filtered and concentrated in vacuo. The residue is recrystallized from diethyl ether/hexane to afford 13 g of the pure title compound as orange crystals and 6.6 g of an orange oil which contained 50% of the starting material.

reactant | (2-methoxy-ethyl)-(2-methoxy-6-nitro-phenyl)-amine | 58.9 mmol, ca. 20 g | COCCNC1=C(C=CC=C1[N+](=O)[O-])OC | C10H14N2O4
reactant | bromine | 58.9 mmol, 3.0 ml | BrBr | Br2
reactant | EtOAc | 600 ml | CCOC(=O)C | C4H8O2
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
product | (4-Bromo-2-methoxy-6-nitro-phenyl)-(2-methoxy-ethyl)-amine | 13 g | BrC1=CC(=C(C(=C1)[N+](=O)[O-])NCCOC)OC | C10H13BrN2O4
